US05928999
4-Chloro-3-[4-chloro-3-(2-ethoxycarbonylazo)-phenyl]-5-difluoromethoxy-1-methyl-1H-pyrazole (No. Ia.191)
A solution of 2.1 g (6.6 mmol) of m-chloroperbenzoic acid in 10 ml of dichloromethane was added dropwise to a solution of 2.1 g (5.3 mmol) of 4chloro-3-[4-chloro-3-(2-ethoxycarbonylhydrazino)-phenyl]-5-difluoromethoxy-1-methyl-1H-pyrazole in 15 ml of dichloromethane. The mixture was stirred at 35° C. for 30 minutes and poured into 50 ml of water. The organic phase was separated off and washed with 10% strength by weight sodium hydrogen carbonate solution, then dried over magnesium sulfate and finally concentrated. The crude product was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=4:1). Yield: 0.5 g.

reactant | m-chloroperbenzoic acid | 6.6 mmol, 2.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4chloro-3-[4-chloro-3-(2-ethoxycarbonylhydrazino)-phenyl]-5-difluoromethoxy-1-methyl-1H-pyrazole | 5.3 mmol, 2.1 g | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)NNC(=O)OCC | C14H14Cl2F2N4O3
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-Chloro-3-[4-chloro-3-(2-ethoxycarbonylazo)-phenyl]-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)N=NC(=O)OCC | C14H12Cl2F2N4O3
